US05994274
7.6 g of 2-chloro-4,6-dimethylphenylmalonic acid according to Example (XXXV-1) were suspended in 22 ml of toluene and treated dropwise with 19.5 ml of thionyl chloride. The mixture was heated at 95° C. for 9.5 h, cooled and freed from the volatile constituents by passing argon through. The residues of thionyl chloride and the solvent were distilled off at 45° C. in a high vacuum. 6.6 g of 2-chloro-4,6-dimethylphenylchlorocarbonylketene were obtained as an oil which was slightly contaminated with 2-chloro-4,6-dimethylphenylacetyl chloride.

reactant | 2-chloro-4,6-dimethylphenylmalonic acid | 7.6 g | ClC1=C(C(=CC(=C1)C)C)C(C(=O)O)C(=O)O | C11H11ClO4
reactant | thionyl chloride | 19.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 22 ml | C1(=CC=CC=C1)C | C7H8
product | 2-chloro-4,6-dimethylphenylchlorocarbonylketene | 6.6 g | ClC1=C(C(=CC(=C1)C)C)C(=C=O)C(=O)Cl | C11H8Cl2O2
